US07704995B2
A solution of 10% Pd/Carbon (0.070 g, 0.50 mmol)), in EtOAc (7.0 mL) was stirred under a H2 (g) balloon for 2 h, after which time a solution of 2-azido-4-fluoro-2,3-dihydro-1H-inden-1-ol (0.98 g, 5.1 mmol) and Boc2O (1.3 g, 6.1 mmol) in EtOAc (3.0 mL) was added. The mixture was stirred under a H2 (g) balloon at r.t. for 12 h. Filtration through celite/fritted glass funnel and concentration in vacuo gave a crude residue, which was purified via column chromatography (SiO2, 3:1 hexanes/EtOAc) to give 0.62 g (46% yield) of 1,1-dimethylethyl (4-fluoro-1-hydroxy-2,3-dihydro-1H-inden-2-yl)carbamate: 1H NMR (400 MHz, CDCl3): 7.18 (m, 2H), 6.94 (nm, 1H), 5.21 (bs, 0.5H), 5.03 (bs, 0.5H), 4.37 (bs, 0.5H), 4.10 (q, 0.5H), 3.24-3.40 (m, 1H), 2.59-2.86 (m, 1H), 1.44 (s, 9H).

reactant | 2-azido-4-fluoro-2,3-dihydro-1H-inden-1-ol | 5.1 mmol, 0.98 g | N(=[N+]=[N-])C1C(C2=CC=CC(=C2C1)F)O | C9H8FN3O
reactant | Boc2O | 6.1 mmol, 1.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 7.0 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 3.0 mL | CCOC(=O)C | C4H8O2
catalyst | Pd Carbon | 0.50 mmol, 0.070 g | [Pd].[C]
product | 1,1-dimethylethyl (4-fluoro-1-hydroxy-2,3-dihydro-1H-inden-2-yl)carbamate | 0.62 g, 46% yield | FC1=C2CC(C(C2=CC=C1)O)NC(OC(C)(C)C)=O | C14H18FNO3
